US07910613B2
5-Furan-3-yl-4-phenyl-thiazol-2-ylamine
N-(5-Furan-3-yl-4-phenyl-thiazol-2-yl)-formamide (5.7 g, 21 mmol) was dissolved in a mixture of methanol (210 mL) and THF (90 mL), and conc. squeous hydrochloric acid (8.7 mL) was added dropwise at room temperature. The reaction mixture was stirred over night and the solvent was removed by evaporation. The residue was extracted with ethyl acetate, and washed with NaHCO3 (aq.; sat.) and water and dried over sodium sulfate. The solvent was removed and the crude product was purified on neutral Al2O3 using 30-35% ethyl acetate in hexane as eluent. Yield: 2.5 g, 49%.

reactant | N-(5-Furan-3-yl-4-phenyl-thiazol-2-yl)-formamide | 21 mmol, 5.7 g | O1C=C(C=C1)C1=C(N=C(S1)NC=O)C1=CC=CC=C1 | C14H10N2O2S
solvent | methanol | 210 mL | CO | CH4O
solvent | THF | 90 mL | C1CCOC1 | C4H8O
solvent | hydrochloric acid | 8.7 mL | Cl | ClH
product | 5-Furan-3-yl-4-phenyl-thiazol-2-ylamine | O1C=C(C=C1)C1=C(N=C(S1)N)C1=CC=CC=C1 | C13H10N2OS
